US08541411B2
Preparation of [2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-yl]methanol
To the mixture of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid, prepared as described in Example 20 (70 mg, 0.174 mmol) in Tetrahydrofuran (THF) (5 mL) was added in LiAlH4 (19.85 mg, 0.523 mmol) at 0° C. and the reaction mixture was stirred at rt for 1 h. Then LiAlH4 (19.85 mg, 0.523 mmol) was added in and the reaction mixture was stirred at rt for another hour. The reaction mixture was cooled to 0° C. and quenched with water (0.04 ml), NaOH (15%, 0.04 ml) then water (0.12 ml). After the resultant mixture was stirred at room temperature for 2 h, anhydrous MgSO4 was added and the reaction mixture was filtered through celite and washed with EtOAc. Evaporation of the solvent gave the crude product. The crude product was purified on a silica column (0˜4% MeOH/DCM) to give the solid (12 mg, 17%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.38 (s, 3H), 2.91-3.05 (m, 4H), 3.64-3.74 (m, 4H), 4.89 (d, J=5.56 Hz, 2H), 5.12 (t, J=5.81 Hz, 1H), 5.95 (s, 2H), 6.33 (d, J=6.82 Hz, 1H), 6.81 (d, J=2.02 Hz, 1H), 6.97 (d, J=1.77 Hz, 1H), 7.34 (t, J=7.71 Hz, 1H), 7.54-7.74 (m, 2H), 7.85 (d, J=8.08 Hz, 1H), 8.01 (d, J=7.58 Hz, 1H), 8.25 (d, 1H). MS (ES+) m/z 388.0 [M+H]+.

reactant | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)O)N2CCOCC2 | C24H23N3O3
reactant | LiAlH4 | 0.523 mmol, 19.85 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 0.523 mmol, 19.85 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-yl]methanol | 12 mg, 17% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2CO)N2CCOCC2 | C24H25N3O2
